US06184244B2
N-[(carbobenzyloxycarbonyl)valinyl]-3-amino-4-hydroxy-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester
A solution of N-[(carbobenzyloxycarbonyl)valinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester (6.18 g, 10.57 mmol) in 1:1 MeOH/THF (100 ml) was cooled to 0° C. and NaBH4 (1.20 g, 31.72 mmol) was added and stirred for 2 hours. The reaction was diluted with saturated NH4Cl and extracted with CH2Cl2 (2×). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated to give the titled product as a white solid (6.14 g, 10.46 mmol, 98%). MS C28H34N2O7, [M+Na]+ =609, [M−H]−=585.

reactant | N-[(carbobenzyloxycarbonyl)valinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester | 10.57 mmol, 6.18 g | C(=O)(OCC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=C(C(=CC(=C1F)F)F)F)=O | C29H32F4N2O8
reactant | MeOH THF | 100 ml | CO.C1CCOC1
reactant | NaBH4 | 31.72 mmol, 1.20 g | [BH4-].[Na+]
solvent | NH4Cl | [NH4+].[Cl-]
product | N-[(carbobenzyloxycarbonyl)valinyl]-3-amino-4-hydroxy-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester | 10.46 mmol, 6.14 g, 98% | C(=O)(OCC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=C(C(=CC(=C1F)F)F)F)O | C29H34F4N2O8
